US04080452
1-(β-chloroα-methyl propionylamino) 2-methoxy 5-acetyl benzene
24.8 g of 2-methoxy 5-acetyl aniline [obtained according to Oelschager Arzneimit. Forschung 8 532-539 (1958)] dissolved in 150 ml benzene are added with 10.6 g of 3-chloro isobutyric acid chloride in 40 ml benzene. The mixture is kept at room temperature for 2 hours under stirring then diluted with 250 ml water. The benzenic phase is separated. The aqueous phase is extracted twice with benzene. The benzenic solutions are united, washed with 2N hydrochloric acid and then with water, dried on sodium sulphate, filtered and evaporated to dryness. The residue is recrystallised from isopropyl ether from which 15.5 g of pure compound are recovered (yield = 77%) -1-(β-chloroα-methyl propionylamino) 2-methoxy 5-acetylbenzene melts at 92°-97°.

reactant | 2-methoxy 5-acetyl aniline | 24.8 g | COC1=C(N)C=C(C=C1)C(C)=O | C9H11NO2
reactant | 3-chloro isobutyric acid chloride | 10.6 g | ClCC(C(=O)Cl)C | C4H6Cl2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | water | 250 ml | O | H2O
product | 1-(β-chloroα-methyl propionylamino) 2-methoxy 5-acetyl benzene | yield = 77% | ClCC(C(=O)NC1=C(C=CC(=C1)C(C)=O)OC)C | C13H16ClNO3
